US06090825
F. 4-[5-(2,4-Difluoro-phenyl)-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperidine-1-carboxylic acid benzyl ester
To a three neck 0.5 liter round bottom flask fitted with mechanical stirrer, nitrogen inlet and dropping funnel is added 4-[5-(2,4-Difluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidine-1-carboxylic acid benzyl ester, methane sulfonic anhydride (5.87 g, 33.7 mmol), and 150 mL of dry tetrahydrofuran. The mixture is stirred and cooled to 0° C., followed by dropwise addition of diisopropyl ethylamine (8.4 mL, 48 mmol). The mixture is stirred for 1 hour at 0° C. and then allowed to warm to room temperature. To the resultant mixture is then added sodium iodide (7.75 g, 51.7 mmol), and the mixture is stirred for an additional three hours. The sodium 2,2,2-trifluoroethoxide (0.151 mmol in 80 mL of dry tetrahydrofuran) is added dropwise over a 15 minute period and the resulting mixture is stirred for an additional 1 hour. The mixture is cooled to 0° C. and carefully quenched with 125 mL of water. After the addition was complete, the mixture is extracted with water and methylene chloride. The aqueous is washed with an additional three portions of methylene chloride, using 300 mL volumes. The organics are combined, washed with brine, dried over magnesium sulfate and concentrated to a thick residue. The residue is purified by preparative medium performance liquid chromatography to give upon concentration the desired fractions of the title compound.

reactant | 4-[5-(2,4-Difluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1OC(=C(N1)CO)C1=C(C=C(C=C1)F)F | C23H22F2N2O4
reactant | methane sulfonic anhydride | 33.7 mmol, 5.87 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | diisopropyl ethylamine | 48 mmol, 8.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 51.7 mmol, 7.75 g | [I-].[Na+]
reactant | sodium 2,2,2-trifluoroethoxide | 0.151 mmol, 80 mL | FC(C[O-])(F)F.[Na+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 4-[5-(2,4-Difluoro-phenyl)-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1OC(=C(N1)COCC(F)(F)F)C1=C(C=C(C=C1)F)F | C25H23F5N2O4
